US07674809B2
1b) 2-phenyl-6-nitrobenzothiazole
2-Phenylbenzothiazole (Aldrich, 63.89 g, 0.302 mol) is nitrated with 100% nitric acid (190 ml, 4.53 mol) at 5° C. The mixture is stirred at 5° C. for 70 minutes, quenched in ice-water and basified with 32% NaOH (pH=10). The product is filtered off and the solid obtained is suspended in water and filtered off. The product is recrystallized from isopropyl ether. Yield: 73.6 g (95%); Rf (8/2 petroleum ether/ethyl acetate): 0.76; m.p.: 178.9-181.3°; 1H-NMR (d6-DMSO): 9.16 (d, 1H); 8.35 (dd, 1H); 8.23 (d, 1H); 8.15 (dd, 1H) 7.58; (m, 4H).

reactant | 2-Phenylbenzothiazole | 0.302 mol, 63.89 g | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2 | C13H9NS
reactant | nitric acid | 4.53 mol, 190 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 2-phenyl-6-nitrobenzothiazole | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C13H8N2O2S
